US05217643
In a 5 liter-reaction vessel, 100 g (5.32×10-1M) of 2,5-dicyano-1,4-dimethoxybenzene, 312.5 g (1.17 M) of anhydrous aluminum tribromide and 2.5 liters of dry benzene were placed, followed by heat-refluxing for 7 hours. After the reaction, the reaction mixture as cooled and poured into a mixture of 3 kg of crushed ice and 500 ml of concentrated hydrochloric acid to precipitate a crystal. The crystal was recovered by filtration and dissolved in 2N-sodium hydroxide aqueous solution. The resultant insoluble residue was filtered off and the filtrate was acidified with 2N-hydrochloric acid to precipitate a crystal. The crystal was recovered by filtration and washed with water, followed by drying to obtain 35.5 g of 2,5-dicyanohydroquinone (Yield: 41.7%).

reactant | 2,5-dicyano-1,4-dimethoxybenzene | 5.32×10-1M, 100 g | C(#N)C1=C(C=C(C(=C1)OC)C#N)OC | C10H8N2O2
reactant | aluminum tribromide | 1.17 M, 312.5 g | [Br-].[Br-].[Br-].[Al+3]
reactant | hydrochloric acid | 500 ml | Cl | ClH
solvent | benzene | 2.5 liters | C1=CC=CC=C1 | C6H6
product | 2,5-dicyanohydroquinone | 35.5 g, Yield: 41.7% | C(#N)C1=C(O)C=C(C(=C1)O)C#N | C8H4N2O2
